US07691881B2
1(1) Benzyl({1-[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-carbamate
A mixture of benzyl(piperidin-4-ylmethyl)carbamate (7.77 g, 31.3 mmol, prepared according to Bose, D. Subhas et al., Tetrahedron Lett., 1990, 31, 6903) and 1,6-dioxaspiro[2.5]octane (4.29 g, 37.6 mmol, prepared according to Satyamurthy, Nagichettiar et al., Phosphorus Sulfur, 1984, 19, 113) in methanol (93 mL) was stirred at room temperature for 20 h. Then, the mixture was refluxed for 8 h. After cooling to room temperature, the solvent was removed in vacuo. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methanol (v/v=20/1) to give 5.60 g (49%) of the title compound as colorless oil.

reactant | benzyl(piperidin-4-ylmethyl)carbamate | 31.3 mmol, 7.77 g | C(C1=CC=CC=C1)OC(NCC1CCNCC1)=O | C14H20N2O2
reactant | 1,6-dioxaspiro[2.5]octane | 37.6 mmol, 4.29 g | O1CC12CCOCC2 | C6H10O2
solvent | methanol | 93 mL | CO | CH4O
product | Benzyl({1-[(4-hydroxytetrahydro-2H-pyran-4-yl)methyl]piperidin-4-yl}methyl)-carbamate | 5.60 g, 49% | C(C1=CC=CC=C1)OC(NCC1CCN(CC1)CC1(CCOCC1)O)=O | C20H30N2O4
